US05569655
To a solution of 1-indanone (23.78 g, 0.18 mol) in 250 ml of ether at 0° C. was added dropwise over 30 min., 100 ml of phenyllithium in ether (1.8M in ether) and the mixture was allowed to warm to room temperature and stirred 1 h. The reaction mixture was poured into a cold saturated ammonium chloride solution, extracted with ether (2×200 ml), and the combined organic layer was washed with brine and dried over sodium sulfate. The organic solvent was removed under reduced pressure, 70 ml of 20% sulfuric acid in acetic acid was added to the residue and stirred 2 min. To the above solution water (100 ml) and ether (3×200 ml) were added, The organic layer was washed with sodium bicarbonate solution, dried over sodium sulfate, filtered, and concentrated. Toluene (300 ml ) was added to the residue and the mixture was distilled (azeotropic removal of acetic acid) to afford a brown oil. The brown oil was purified by chromatography (silica; (2:1 hexane/methylene chloride)) to afford 15.58 g (45.82%) of 1-phenyl-indene as a colorless oil. In addition 11 g of 1-phenyl-1-acetoxy-indane was isolated as a by-product.

reactant | 1-indanone | 0.18 mol, 23.78 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | phenyllithium | 100 ml | C1(=CC=CC=C1)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 250 ml | CCOCC | C4H10O
solvent | ether | 1.8M | CCOCC | C4H10O
product | 1-phenyl-indene | 15.58 g, 45.82% | C1(=CC=CC=C1)C1C=CC2=CC=CC=C12 | C15H12
